US07244730B2
(Step 5) 1-[4-Acetyl-8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-1-ethanone
Potassium carbonate (113 g, 818 mmol) and 1,2-dibromoethane (64.1 g, 341 mmol) were added to a solution of the N1-[5-acetyl-3-(tert-butyl)-2-hydroxyphenyl]acetamide (34.0 g, 137 mmol) in dimethylformamide (280 ml) under a nitrogen atmosphere, and then the mixture was stirred at 70° C. for 17 hours. The solvent was distilled off under reduced pressure, ethyl acetate was added to the residue and the mixture was washed with water (3 times) and brine in that order. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure to yield the title compound (36.9 g, 98.1% yield) as light red crystals. These were used without purification for the following reaction.

reactant | Potassium carbonate | 818 mmol, 113 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 341 mmol, 64.1 g | BrCCBr | C2H4Br2
reactant | N1-[5-acetyl-3-(tert-butyl)-2-hydroxyphenyl]acetamide | 137 mmol, 34.0 g | C(C)(=O)C=1C=C(C(=C(C1)NC(C)=O)O)C(C)(C)C | C14H19NO3
solvent | dimethylformamide | 280 ml | CN(C=O)C | C3H7NO
product | 1-[4-Acetyl-8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-1-ethanone | 36.9 g, 98.1% yield | C(C)(=O)N1CCOC2=C1C=C(C=C2C(C)(C)C)C(C)=O | C16H21NO3
